US07935725B2
Step D: (S,S)-2-[4-(2,5-Diaza-bicyclo[2.2.1]hept-2-ylmethyl)-benzyl]-benzothiazole dihydrochloride.
To a solution of 5-(4-benzothiazol-2-ylmethyl-benzyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (0.82 g, 1.9 mmol) in CH2Cl2 (19 mL) was added HCl (4.0 N in 1,4-dioxane, 7 mL) and the resulting white suspension was stirred at rt for 4 h. The reaction mixture was concentrated affording the title compound as a white solid (0.9 g, 100%). MS (ESI): mass calcd. for free amine C20H21N3S, 335.47; m/z found, 336.2 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 12.09-11.07 (br m, 1H), 10.16-9.71 (br m, 2H), 8.03 (d, J=8.0 Hz, 1H), 7.96 (d, J=8.0 Hz, 1H), 7.72-7.70 (m, 2H), 7.50-7.47 (m, 3H), 7.42-7.39 (m, 1H), 4.62-4.59 (br m, 0.5H), 4.52 (br s, 2H), 4.48-4.44 (br m, 2H), 4.37-4.34 (br m, 1.5H), 3.95-3.92 (m, 1H), 3.72-3.70 (m, 1H), 3.34-3.30 (m, 2H), 2.69-2.63 (m, 0.5H), 2.48-2.43 (m, 0.5H), 2.13-2.06 (m, 1H).

reactant | 5-(4-benzothiazol-2-ylmethyl-benzyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 1.9 mmol, 0.82 g | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)CC2=CC=C(C=C2)CC=2SC1=C(N2)C=CC=C1 | C25H29N3O2S
reactant | HCl | 4.0 N, 7 mL | Cl | ClH
solvent | CH2Cl2 | 19 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-2-[4-(2,5-Diaza-bicyclo[2.2.1]hept-2-ylmethyl)-benzyl]-benzothiazole dihydrochloride | 0.9 g, 100% | Cl.Cl.[C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(CC=1SC3=C(N1)C=CC=C3)C=C2 | InChI=1S/C20H21N3S.2ClH/c1-2-4-19-18(3-1)22-20(24-19)9-14-5-7-15(8-6-14)12-23-13-16-10-17(23)11-21-16;;/h1-8,16-17,21H,9-13H2;2*1H/t16-,17-;;/m0../s1
